US05017574
To a solution of 400 mg (1.29 mmol) of 5,6-dihydro-5-methyl-6-oxo-7-trifluoromethyl-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde in 12 ml of dichloromethane with 0.04 ml of boron trifluoroethate, there was added a solution of 0.18 ml (1.29 mmole) of 2-mercaptoethanol in 40 ml of dichloromethane dropwise over 5 hours. After 18 hours further 0.02 ml of boron trifluoroetherate was added and the reaction mixture was stirred for 24 hours at ambient temperature. The reaction mixture was extracted with aqueous sodium bicarbonate, water, dried over MgSO4 and concentrated in vacuo to obtain a 47% yield of 5,6-dihydro-5-methyl-3-(1,3-oxathiolan-2-yl)-7-trifluoromethyl-imidazo[1,5-a][1,4]benzodiazepine-6(4H)-one after chromatography over silica gel.

reactant | 5,6-dihydro-5-methyl-6-oxo-7-trifluoromethyl-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | 1.29 mmol, 400 mg | CN1CC=2N(C3=C(C1=O)C(=CC=C3)C(F)(F)F)C=NC2C=O | C14H10F3N3O2
reactant | boron | 0.04 ml | [B] | B
reactant | 2-mercaptoethanol | 1.29 mmole, 0.18 ml | SCCO | C2H6OS
reactant | boron | 0.02 ml | [B] | B
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 5,6-dihydro-5-methyl-3-(1,3-oxathiolan-2-yl)-7-trifluoromethyl-imidazo[1,5-a][1,4]benzodiazepine-6(4H)-one | 47% yield | CN1CC=2N(C3=C(C1=O)C(=CC=C3)C(F)(F)F)C=NC2C2OCCS2 | C16H14F3N3O2S
